US05262333
Preferred Amphetamine Immunogen
A mixture of 7.56 g (50 mmol) of 3-nitrobenzaldehyde, 11.25 g (150 mmol) of nitroethane and 4.24 g (55 mmol) of ammonium acetate was heated in 2 mL of acetic acid in a 110° C. oil bath for 2 1/2 hours. Subsequent examination of the mixture by preparative thin layer chromatography with hexane/ethyl acetate showed almost no starting material remaining. Volatile materials were removed with a rotary evaporator, and the residue was partitioned between dichloromethane and water, with washing of the organic layer twice with 10% sodium bicarbonate. Caution was necessary because gas evolution occurred during the first bicarbonate wash. Drying was performed with magnesium sulfate. Filtration and removal of solvent left 9.13 g of crude product. Half of this was chromatographed on a 3×35 cm flash silica column, packed with hexane and eluted with 7:1 hexane/ethyl acetate to give 1.66 g (32%) of pure title compound.

reactant | 3-nitrobenzaldehyde | 50 mmol, 7.56 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | nitroethane | 150 mmol, 11.25 g | [N+](=O)([O-])CC | C2H5NO2
reactant | ammonium acetate | 55 mmol, 4.24 g | C(C)(=O)[O-].[NH4+]
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | Amphetamine | 1.66 g, 32% | NC(C)CC1=CC=CC=C1 | C9H13N
